US06297239B1
Step B: Preparation of 2-(2-Oxo-2H-pyridin-1-yl)-phenol
Sodium ethanethiol (0.108 g, 1.29 mmol) was added to a solution of 2-(2-oxo-2H-pyridin-1-yl)-anisole (0.100 g, 0.497 mmol) in DMF (2 mL), and the reaction mixture was heated at 100° C. for 3 hr. The reaction mixture was partitioned between CHCl3 and saturated aqueous ammonium chloride and treated with 8N HCl (pH=1). The organic layer was separated, washed with H2O, brine, dried (Na2SO4), filtered, concentrated, and taken up in EtOAc, then extracted with 2% NaOH solution. The aqueous basic layer was acidified with 10% HCl solution, then extracted with EtOAc, the organic layer washed with brine, dried (Na2SO4), filtered, and concentrated to give the desired product.

reactant | Sodium ethanethiol | 1.29 mmol, 0.108 g | C(C)S.[Na]
reactant | 2-(2-oxo-2H-pyridin-1-yl)-anisole | 0.497 mmol, 0.100 g | O=C1N(C=CC=C1)C1=C(C=CC=C1)OC | C12H11NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(2-Oxo-2H-pyridin-1-yl)-phenol | O=C1N(C=CC=C1)C1=C(C=CC=C1)O | C11H9NO2
